US06043254
(d) 4-(4-amino-benzyl)-1H-imidazole
Prepared by catalytic hydrogenation of 4-(4-nitro-benzyl)-1H-imidazole in EtOH on palladium/charcoal (10%) (20° C., 3.5 bar, 45 minutes).

reactant | 4-(4-nitro-benzyl)-1H-imidazole | [N+](=O)([O-])C1=CC=C(CC=2N=CNC2)C=C1 | C10H9N3O2
solvent | EtOH | CCO | C2H6O
product | 4-(4-amino-benzyl)-1H-imidazole | NC1=CC=C(CC=2N=CNC2)C=C1 | C10H11N3
